US05464840
Dissolved 4-[10,11 -dihydro-5-(2-propenyl)-5H-dibenzo[a,d]cyclohepten-5-yl]-1-methyl-1,2,5,6-tetrahydropyridine (0.39 g, 1.2 mmol) in 50 mL of absolute ethanol, and added a teaspoon of Raney nickel paste. Hydrogenated on a Paar shaker at 17 psi of hydrogen pressure for 16 hours. Filtered to remove catalyst, and evaporated filtrate to a solid. Recrystallized crude product from hexane to give 0.20 g (50% yield) of 4-[10,11-dihydro-5-propyl-5H-dibenzo[a,d]cyclohepten-5-yl]-1-methyl-1,2,5,6-tetrahydropyridine as a white solid.

reactant | 4-[10,11 -dihydro-5-(2-propenyl)-5H-dibenzo[a,d]cyclohepten-5-yl]-1-methyl-1,2,5,6-tetrahydropyridine | 1.2 mmol, 0.39 g | C(C=C)C1(C2=C(CCC3=C1C=CC=C3)C=CC=C2)C2=CCN(CC2)C | C24H27N
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 4-[10,11-dihydro-5-propyl-5H-dibenzo[a,d]cyclohepten-5-yl]-1-methyl-1,2,5,6-tetrahydropyridine | 0.20 g, 50% yield | C(CC)C1(C2=C(CCC3=C1C=CC=C3)C=CC=C2)C2=CCN(CC2)C | C24H29N
